US03970704
To a mixture of one g. of 3,7-dimethyloct-6-en-1-al 1.5 g. of phosphonate (II; R' is ethyl, R1 is methyl, R6 is ethoxy, R12 is hydrogen) and 50 ml. of dimethylformamide, under nitrogen, is slowly added sodium ethoxide (prepared from 200 mg. of sodium and 12 ml. of ethanol). The mixture is allowed to stand at room temperature for one hour and then is worked up with ether. The ethereal extracts are dried, concentrated and then chromatographed on silica plates eluting with hexane/ether to yield ethyl 3,7,11-trimethyldodeca-2,4,10-trienoate which is predominantly trans at position C-2,3 and C-4,5.

reactant | 3,7-dimethyloct-6-en-1-al | 1.5 g | CC(CC=O)CCC=C(C)C | C10H18O
reactant | phosphonate | P([O-])([O-])=O
reactant | hydrogen | [H][H] | H2
reactant | sodium ethoxide | 12 ml, 200 mg | [O-]CC.[Na+]
solvent | ether | CCOCC | C4H10O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 3,7,11-trimethyldodeca-2,4,10-trienoate | CC(=CC(=O)OCC)C=CCC(CCC=C(C)C)C | C17H28O2
